US05387710
To a solution of N-methoxycarbonyl-O-methyl-L-tyrosine (0.5 g) in dichloromethane (2 ml) was added thionyl chloride (0.29 ml). After stirring for 1 hour at ambient temperature, the reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane (5 ml) and treated with 0.9M ethylaluminum dichloride in dichloromethane (4.4 ml) in an ice-bath. The mixture was allowed to warm to ambient temperature and stirred overnight. The mixture was poured into concentrated hydrochloric acid containing crashed ice and extracted once with dichloromethane. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. Purification of the residue by column chromatography on silica gel (eluent; 10:1 dichloromethane-ethyl acetate) gave 6-methoxy-2-(methoxycarbonylamino)indan-1-one (0.12 g).

reactant | N-methoxycarbonyl-O-methyl-L-tyrosine | 0.5 g | COC(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C12H15NO5
reactant | thionyl chloride | 0.29 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6-methoxy-2-(methoxycarbonylamino)indan-1-one | 0.12 g | COC1=CC=C2CC(C(C2=C1)=O)NC(=O)OC | C12H13NO4
